US05968819
A solution of 2,4-dichloro-8-methoxy-quinazoline (prepared as described in J. Chem. Soc. 1948, 1759) (0.6 g), N,N-diisopropyl-ethylamine (0.87 ml), and aniline (0.26 ml) in isopropanol (10 ml) is heated to reflux for 45 min. The cold reaction mixture is filtered and residue is crystallized from dichloromethane and hexanes to give 2-chloro-8-methoxy-4-phenylamino-quinazoline, m.p. 245-246° C.

reactant | 2,4-dichloro-8-methoxy-quinazoline | 0.6 g | ClC1=NC2=C(C=CC=C2C(=N1)Cl)OC | C9H6Cl2N2O
reactant | N,N-diisopropyl-ethylamine | 0.87 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | aniline | 0.26 ml | NC1=CC=CC=C1 | C6H7N
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 2-chloro-8-methoxy-4-phenylamino-quinazoline | ClC1=NC2=C(C=CC=C2C(=N1)NC1=CC=CC=C1)OC | C15H12ClN3O
